US08791107B2
PREPARATION x81: (R)-5-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-yl acetate
(R)-2-Chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x3, 200 mg, 0.882 mmol) and 2-methyl-5-oxopentan-2-yl acetate (55.8 mg, 0.353 mmol) were combined in a 25 mL pear flask to give an orange suspension. Titanium(IV) chloride in DCM (1M, 0.971 mL, 0.971 mmol) was added at room temperature to give a deep-red suspension, which was stirred at room temperature for 1 hour before being cooled to 0° C. Sodium triacetoxyborohydride (281 mg, 1.324 mmol) was added at 0° C. in portions. The thick suspension slowly turned into a thinner, orange one with gas evolution. UPLC showed the reaction proceeded more than half-way after about 20 minutes. The reaction mixture was carefully quenched with brine, and was partitioned between saturated NaHCO3 and ethyl acetate. The aqueous layer was extracted a second time with ethyl acetate. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound, which was used without further purification. ESI-MS m/z [M+H]+ calc'd for C17H25ClN4O3, 369.17. found 396.2.

reactant | (R)-2-Chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.882 mmol, 200 mg | ClC1=NC=2N3[C@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | 2-methyl-5-oxopentan-2-yl acetate | 0.353 mmol, 55.8 mg | C(C)(=O)OC(C)(CCC=O)C | C8H14O3
reactant | DCM | 0.971 mmol, 1M, 0.971 mL | C(Cl)Cl | CH2Cl2
reactant | Sodium triacetoxyborohydride | 1.324 mmol, 281 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | Titanium(IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
product | (R)-5-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-yl acetate | C(C)(=O)OC(C)(CCCN1C=2C=NC(=NC2N2[C@H](C1)COCC2)Cl)C | C17H25ClN4O3
